US04021479
4-(4'-Chloro-2'-methyl-4-biphenylyl)-4-hydroxy-butyric acid
Prepared analogous to Example 25 by reduction of 4-(4'-chloro-2'-methyl-4-biphenylyl)-4-oxo-butyric acid (m.p. 153°-154° C.) with sodium borohydride. Yield: 96%. Melting point of the cyclohexylamine salt: 139°-140° C. (from ethylene chloride/ethyl acetate 5:1).

reactant | 4-(4'-chloro-2'-methyl-4-biphenylyl)-4-oxo-butyric acid | ClC1=CC(=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O)C | C17H15ClO3
reactant | sodium borohydride | [BH4-].[Na+]
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
solvent | ethylene chloride ethyl acetate | C(CCl)Cl.C(C)(=O)OCC
product | 4-(4'-Chloro-2'-methyl-4-biphenylyl)-4-hydroxy-butyric acid | Yield: 96% | ClC1=CC(=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)O)C | C17H17ClO3
